US06743794B2
(Pyrimidin-2-yloxy)-acetic Acid Ethyl Ester
To a slurry of sodium hydride (60% dispersion in mineral oil), 280 mg (5.76 mmol) in 10 mL of DMF at 0° C. was added 0.52 mL (4.8 mmol) of ethyl glycolate. After 10 minutes, 0.92 g (5.76 mmol) of 2-bromopyrimidine was added. The reaction mixture was stirred 15 min at 0° C. then ice bath was removed. After four hours, reaction mixture was quenched with methanol and concentrated to dryness. The residue was partitioned between 20% isopropanol/chloroform and water, then extracted with 20% isopropanol/chloroform. The combined organics were washed with saturated aqueous sodium bicarbonate, washed with brine, dried over sodium sulfate, filtered, and concentrated to dryness. The residue was purified by radial chromatography using a methanol/chloroform gradient as eluent and concentrated to dryness to yield 0.45 g (52%) of the desired product as a colorless oil. MS (ion spray) 183.1 (M+1).

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl glycolate | 4.8 mmol, 0.52 mL | C(CO)(=O)OCC | C4H8O3
reactant | 2-bromopyrimidine | 5.76 mmol, 0.92 g | BrC1=NC=CC=N1 | C4H3BrN2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (Pyrimidin-2-yloxy)-acetic Acid Ethyl Ester | 0.45 g, 52% | C(C)OC(COC1=NC=CC=N1)=O | C8H10N2O3
